US04698337
7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.1 g.) was treated with conc. hydrochloric acid (1.3 g.) in a similar manner to that of Example 21-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(aminoethoxyimino)acetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 0.7 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C23H27N9O8S3
reactant | hydrochloric acid | 1.3 g | Cl | ClH
product | 7-[2-(2-aminothiazol-4-yl)-2-(aminoethoxyimino)acetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.7 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O)=NOCCN | C17H19N9O5S3
